US06365610B1
Preparation of 4,5-dihydro-5-methyl-1-phenyl-1,4-epoxy-1H-2,3-benzodioxepin (Compound 9)
A 1.03 g quantity (5 mmols) of 1-methyl-3-phenylindene, a known compound, was dissolved in 20 ml of carbon tetrachloride, and thereafter reacted with ozone in 1.3 times the molar quantity of the compound at 0° C. To the reaction mixture was added 50 ml of ether, and the organic layer was washed with saturated aqueous solution of sodium bicarbonate and then with saturated aqueous solution of sodium chloride. The organic layer obtained was dried over anhydrous magnesium sulfate, the solvent was thereafter distilled off in a vacuum, and the residue was subjected to silica gel column chromatography for separation and purification (eluent: benzene-hexane, 1:5), consequently giving 0.89 g (yield 70%) of a 2:1 mixture of exo- and endo-isomers of the desired compound. The two isomers were individually isolated by repeating column chromatography again and recrystallization from methanol. The physical properties of two isomeric products are shown in Table 1.

reactant | 1-methyl-3-phenylindene | 5 mmols | CC1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14
reactant | ozone | O=[O+][O-] | O3
reactant | ether | 50 ml | CCOCC | C4H10O
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4,5-dihydro-5-methyl-1-phenyl-1,4-epoxy-1H-2,3-benzodioxepin | yield 70% | CC1C2OOC(C3=C1C=CC=C3)(O2)C2=CC=CC=C2 | C16H14O3
